US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-6-methyl-pyridin-2-ylamine
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (340 mg, 1.0 mmol) and 6-amino-3-bromo-2-methylpyridine (168 mg, 1.0 mmol) according to general procedure II. Obtained as a red solid (65 mg, 15%). MS (ISP) 444.3 [(M+H)+]; mp 243–246° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 340 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 6-amino-3-bromo-2-methylpyridine | 1.0 mmol, 168 mg | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-6-methyl-pyridin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=NC2C)N)C2=CC=C(C=C2)C(F)(F)F)F | C22H14F5N5
